US07109219B2
N4-(4-(1-(Cyclopentylamino)carbonyl-1H-5-indolyl)oxy-2-pyridyl)-4-morpholinecarboxamide
Phenyl N-(4-(1-cyclopentylaminocarbonyl-1H-indol-5-yloxy)-2-pyridyl)-N-(phenoxycarbonyl)carbamate (200 mg, 0.35 mmol) was dissolved in N,N-dimethylformamide (1.5 ml) and morpholine (0.15 ml, 1.73 mmol); and the reaction mixture was stirred at room temperature overnight. The reaction mixture was partitioned between ethyl acetate and water; and the organic layer was washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Fuji Silysia BW-300; ethyl acetate, ethyl acetate:methanol=10:1 in this order); the obtained colorless oil was crystallized by addition of diethyl ether; and the crystals were filtered off, washed with diethyl ether, and dried under aeration to yield the title compound as colorless crystals (140 mg, 0.31 mmol, 90%).

reactant | Phenyl N-(4-(1-cyclopentylaminocarbonyl-1H-indol-5-yloxy)-2-pyridyl)-N-(phenoxycarbonyl)carbamate | 0.35 mmol, 200 mg | C1(CCCC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)N(C(OC1=CC=CC=C1)=O)C(=O)OC1=CC=CC=C1 | C33H28N4O6
reactant | morpholine | 1.73 mmol, 0.15 ml | N1CCOCC1 | C4H9NO
solvent | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | N4-(4-(1-(Cyclopentylamino)carbonyl-1H-5-indolyl)oxy-2-pyridyl)-4-morpholinecarboxamide | 0.31 mmol, 140 mg, 90% | C1(CCCC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)NC(=O)N1CCOCC1 | C24H27N5O4
